US07741327B2
To a stirred mixture of (E)-3-(2-t-butyl-phenoxy)-but-2-enoic acid ethyl ester (3.20 g, 0.012 mol) in carbon tetrachloride (20 mL) under a nitrogen atmosphere was added N-bromosuccinimide (3.26 g, 0.018 mol) and benzoyl peroxide (295 mg, 0.001 mol). Nitrogen gas was bubbled through the mixture for 5 min, and the resulting mixture was heated to reflux for 4 h. The reaction mixture was then placed in the refrigerator overnight. The solids formed were removed by filtration and the filtrate concentrated in vacuo. The crude product obtained was purified using flash column chromatography (silica gel (100-200 mesh), ethyl acetate/hexanes) to afford (E)-4-bromo-3-(2-t-butyl-phenoxy)-but-2-enoic acid ethyl ester (2.10 g, 50%) as a yellow oil.

reactant | (E)-3-(2-t-butyl-phenoxy)-but-2-enoic acid ethyl ester | 0.012 mol, 3.20 g | C(C)OC(\C=C(/C)\OC1=C(C=CC=C1)C(C)(C)C)=O | C16H22O3
reactant | N-bromosuccinimide | 0.018 mol, 3.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.001 mol, 295 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (E)-4-bromo-3-(2-t-butyl-phenoxy)-but-2-enoic acid ethyl ester | 2.10 g, 50% | C(C)OC(\C=C(/CBr)\OC1=C(C=CC=C1)C(C)(C)C)=O | C16H21BrO3
